US07884104B2
Step B: trans-1-Benzyl-6-oxo-4-(2,4,5-trifluorophenyl)piperidine-3-carboxylic acid
To a solution of 8.4 g (22.2 mmol) of methyl-trans-1-benzyl-6-oxo-4-(2,4,5-trifluorophenyl)piperidine-3-carboxylate in 200 mL of 3:1 tetrahydrofuran/methanol was added 50 mL (50 mmol) of a 1N aqueous lithium hydroxide solution and the resulting mixture was stirred at 60° C. for 2 h. The solution was concentrated and acidified with 100 mL of 1N aqueous hydrochloric acid. The resulting mixture was then extracted with three 250-mL portions of ethyl acetate, and the organic phases combined and washed sequentially with 1N hydrochloric acid and saturated aqueous brine (200 mL each). The organic phase was dried over magnesium sulfate, filtered, and evaporated in vacuo to yield the title acid as a colorless foamy solid that was used without further purification. LC/MS 364.3 (M+1).

reactant | methyl-trans-1-benzyl-6-oxo-4-(2,4,5-trifluorophenyl)piperidine-3-carboxylate | 22.2 mmol, 8.4 g | COC(=O)[C@@H]1CN(C(C[C@H]1C1=C(C=C(C(=C1)F)F)F)=O)CC1=CC=CC=C1 | C20H18F3NO3
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | tetrahydrofuran methanol | 200 mL | O1CCCC1.CO
product | trans-1-Benzyl-6-oxo-4-(2,4,5-trifluorophenyl)piperidine-3-carboxylic acid | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1=O)C1=C(C=C(C(=C1)F)F)F)C(=O)O | C19H16F3NO3
